US05025031
Sulfamic acid 2-(3,4-dichlorophenoxy)ethyl ester
The title compound was prepared by the procedures of Example 16 from sulfamoyl chloride and to 2-(3,4-dichlorophenoxy)ethanol. The tan colored solid obtained was dissolved in isopropyl ether and the solution treated with charcoal and filtered through Celite®. The filtrate was evaporated under reduced pressure and the solid residue was recrystallized from isopropyl ether to give the title compound, mp 84°-85° C., in 19% yield.

reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | 2-(3,4-dichlorophenoxy)ethanol | ClC=1C=C(OCCO)C=CC1Cl | C8H8Cl2O2
reactant | charcoal | C | CH4
solvent | isopropyl ether | C(C)(C)OC(C)C | C6H14O
product | Sulfamic acid 2-(3,4-dichlorophenoxy)ethyl ester | ClC=1C=C(OCCOS(N)(=O)=O)C=CC1Cl | C8H9Cl2NO4S
